US07465730B2
As outlined in Example 65, 1-[4-acetyl-1-(4-hydroxy-2-methyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (20 mg) reacted with 1-bromo-2-fluoro ethane (50 μL), in the presence of K2CO3 powder (50 mg), to afford 1-{4-acetyl-1-[4-(2-fluoro-ethoxy)-2-methyl-phenyl]-2,5-dimethyl-1H-pyrrol-3-yl}-ethanone: MS (ESI) 332 (M+H)+. Utilizing the general procedure outlined in Example 48, 1-[4-acetyl-1-(4-ethoxy-2-methyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone and hydrazine reacted to give 6-[4-(2-fluoro-ethoxy)-2-methyl-phenyl]-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine as light yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.06 (d, 1H), 6.94 (s, 1H), 6.90 (m, 1H), 4.12 (q, 2H), 2.81 (s, 6H), 2.38 (s, 6H), 1.80 (s, 3H), 1.50 (t, 3H); MS (ESI) 310 (M+H)+.

reactant | 1-[4-acetyl-1-(4-hydroxy-2-methyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | 20 mg | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)O)C)C)C(C)=O | C17H19NO3
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-fluoro ethane | 50 μL | BrCCF | C2H4BrF
product | 1-{4-acetyl-1-[4-(2-fluoro-ethoxy)-2-methyl-phenyl]-2,5-dimethyl-1H-pyrrol-3-yl}-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)OCCF)C)C)C(C)=O | C19H22FNO3
